US09388189B2
(S)-2-(1-((6-Amino-5-cyanopyrimidin-4-yl)amino)-3-(benzyloxy)propyl)-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazine-5-carbonitrile
In a reactor vessel (S)-2-(1-amino-3-(benzyloxy)propyl)-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazine-5-carbonitrile (42 mg, 0.1 mmol) and 4-amino-6-chloropyrimidine-5-carbonitrile (16 mg, 0.1 mmol) were dissolved in 1-butanol (840 μl) under argon atmosphere. N,N-Diisopropylethylamine (76 μl, 0.87 mmol) was added and the reaction mixture was heated at 120° C. overnight. Further N,N-diisopropylethylamine (76 μl, 0.87 mmol) was added afterwards and the reaction mixture was stirred at 120° C. overnight. The crude was evaporated and purified using SP1® Purification System (0% to 100%, hexane-ethyl acetate) to obtain 34 mg (64% yield) of the title compound as a yellow solid. Purity 97%.

reactant | (S)-2-(1-amino-3-(benzyloxy)propyl)-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazine-5-carbonitrile | 0.1 mmol, 42 mg | N[C@@H](CCOCC1=CC=CC=C1)C1=NN2C(C(N1C1=CC(=CC(=C1)F)F)=O)=C(C=C2)C#N | C23H19F2N5O2
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | 0.1 mmol, 16 mg | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | N,N-Diisopropylethylamine | 0.87 mmol, 76 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 0.87 mmol, 76 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-butanol | 840 μl | C(CCC)O | C4H10O
product | (S)-2-(1-((6-Amino-5-cyanopyrimidin-4-yl)amino)-3-(benzyloxy)propyl)-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazine-5-carbonitrile | 34 mg, 64% yield | NC1=C(C(=NC=N1)N[C@@H](CCOCC1=CC=CC=C1)C1=NN2C(C(N1C1=CC(=CC(=C1)F)F)=O)=C(C=C2)C#N)C#N | C28H21F2N9O2
